US07553837B2
To a reaction solution prepared by dissolving 20 g of 1-acetyl-4-(4-bromophenyl)-piperazine and 7.9 g of imidazole in 120 ml of xylene, 16.9 g of 1,10-phenanthroline, 1.4 g of 1,5-diphenyl-1,4-pentadien-3-one, 28.9 g of cesium carbonate and 1.8 g of a copper (I) trifluoromethanesulfonate benzene complex, as a catalyst, were added at room temperature, followed by heating at reflux in an argon gas flow at 125° C. for 24 hours. After the completion of the reaction, the reaction solution was mixed with 300 ml of an aqueous ammonium solution and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the residue was subjected to silica gel column chromatography (chloroform:ethyl acetate=3:1→chloroform:methanol=20:1) to obtain 15.2 g of the objective 1-acetyl-4-(4-imidazol-1-ylphenyl)-piperazine (melting point: 181-182° C.).

reactant | 1-acetyl-4-(4-bromophenyl)-piperazine | 20 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C12H15BrN2O
reactant | imidazole | 7.9 g | N1C=NC=C1 | C3H4N2
reactant | 1,10-phenanthroline | 16.9 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | 1,5-diphenyl-1,4-pentadien-3-one | 1.4 g | C1(=CC=CC=C1)C=CC(C=CC1=CC=CC=C1)=O | C17H14O
reactant | cesium carbonate | 28.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium | 300 ml | [NH4+]
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-acetyl-4-(4-imidazol-1-ylphenyl)-piperazine | 15.2 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)N1C=NC=C1 | C15H18N4O
